US07674795B2
In a 5-ml three-necked flask, dissolve 74 mg of 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluorene-9(R,S)-amine, isolated as the dihydrochloride, in 0.5 ml of ethanol, add 45 mg of 5-formyl-indole and 70 μL of diisopropylethylamine and stir for 2 hours 30 minutes at room temperature. Then add 28 mg of sodium hydroborate and stir for 18 hours at room temperature. Pour the reaction mixture into 5 ml of a saturated aqueous solution of potassium dihydrogen phosphate, then extract 3 times with 10 ml of dichloromethane. After purification on silica gel, eluting with mixtures of dichloromethane and methanol (98-2, then 96-4 by volume), we obtain 34 mg of N-[4-(3H-imidazo[4,5-c]pyridin-2-yl)-9H-fluoren-9(R,S)-yl]-(1H-indol-5-yl-methyl)-amine, in the form of a white solid with the following characteristics:

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 5-formyl-indole | 45 mg | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | diisopropylethylamine | 70 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydroborate | 28 mg | [B-].[Na+]
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
reactant | 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluorene-9(R,S)-amine | 74 mg | N1=C(NC=2C=NC=CC21)C2=CC=CC=1C(C3=CC=CC=C3C21)N | C19H14N4
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | N-[4-(3H-imidazo[4,5-c]pyridin-2-yl)-9H-fluoren-9(R,S)-yl]-(1H-indol-5-yl-methyl)-amine | 34 mg | N1=C(NC=2C=NC=CC21)C2=CC=CC=1C(C3=CC=CC=C3C21)NCC=2C=C1C=CNC1=CC2 | C28H21N5
